US06440929B1
A solution of 53.05 g (0.186 mol) of 2-(4-(N-salicyloyl)aminophenyl)propionic acid and 300 ml of ethanol was treated with 7.59 g (0.190 mol) of NaOH dissolved in 22 ml of water. The reaction mixture was stirred for 30 min at 25 C. and for 30 min at 0° C. The resulting pale yellow solid was isolated by filtration to give 52.61 g of sodium 2-(4-(N-salicyloyl)aminophenyl)propionate.

reactant | 2-(4-(N-salicyloyl)aminophenyl)propionic acid | 0.186 mol, 53.05 g | C(C=1C(O)=CC=CC1)(=O)NC1=CC=C(C=C1)C(C(=O)O)C | C16H15NO4
reactant | ethanol | 300 ml | C(C)O | C2H6O
reactant | NaOH | 0.190 mol, 7.59 g | [OH-].[Na+]
solvent | water | 22 ml | O | H2O
product | sodium 2-(4-(N-salicyloyl)aminophenyl)propionate | 52.61 g | C(C=1C(O)=CC=CC1)(=O)NC1=CC=C(C=C1)C(C(=O)[O-])C.[Na+] | InChI=1S/C16H15NO4.Na/c1-10(16(20)21)11-6-8-12(9-7-11)17-15(19)13-4-2-3-5-14(13)18;/h2-10,18H,1H3,(H,17,19)(H,20,21);/q;+1/p-1
